US04033962
To a solution of 10 g. of methyl eugenol and 8.1 g. of 2-dimethoxymethylacrylonitrile in 200 ml. of dry methylene chloride was added 1.97 ml. of stannic chloride. After stirring for 5 hours at room temperature, 300 ml. of ether was added and the mixture washed with a 5% sodium bicarbonate solution (until basic). The organic layer was dried (MgSO4) and the solvent removed under reduced pressure. The residue was triturated with ether to give 1,2-dimethoxy-4-(2-propenyl)-5-(2-cyano-3-methoxy-2-propenyl)benzene, m.p. 77°-79°.

reactant | methyl eugenol | COC=1C=CC(=CC1OC)CC=C | C11H14O2
reactant | 2-dimethoxymethylacrylonitrile | COC(C(C#N)=C)OC | C6H9NO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1,2-dimethoxy-4-(2-propenyl)-5-(2-cyano-3-methoxy-2-propenyl)benzene | COC1=C(C=C(C(=C1)CC(=COC)C#N)CC=C)OC | C16H19NO3
